US07300944B2
5-Cyclobutyl-1H-pyrazol-3-ylamine
To an aliquot of the crude 3-cyclobutyl-3-oxo-propionitrile (10.0 g, 81.3 mmol) prepared above in EtOH (300 mL) was added hydrazine. The resulting mixture was heated to 75° C. (oil bath). After 14 hr, the reaction was cooled to room temperature and concentrated under reduced pressure. The resulting oil was taken up in EtOAc and washed with saturated aqueous NaHCO3 solution. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered through a pad of diatomaceous earth, and concentrated under reduced pressure. Purification of this material was accomplished by flash column chromatography on a Biotage® 75S MPLC system (A Dynax Corp., Charlottesville, Va.), eluting with 100 EtOAc (2 L) and 10% MeOH/CH2Cl2 (2 L). The product-containing fractions were collected and concentrated to give the title compound (10.0 g, 91% yield) as a brown oil. 400 MHz 1H NMR (CDCl3) d 5.47 (s, 1H), 5.25 (bs, 3H), 3.40 (dddd, J=8.3, 8.3, 8.3, 8.3 Hz, 1H), 2.34-2.27 (m, 2H), 2.16-1.88 (m, 4H). LRMS m/z (APCI+) 138 (M+1).

reactant | 3-cyclobutyl-3-oxo-propionitrile | 81.3 mmol, 10.0 g | C1(CCC1)C(CC#N)=O | C7H9NO
reactant | hydrazine | NN | H4N2
solvent | EtOH | 300 mL | CCO | C2H6O
product | 5-Cyclobutyl-1H-pyrazol-3-ylamine | 10.0 g, 91% yield | C1(CCC1)C1=CC(=NN1)N | C7H11N3
